US04937246
In a mixture solvent of methanol (50 ml) and methylene chloride (50 ml) is dissolved methyl 7,8-dimethoxy-5-oxo-2,3,4,5-tetrahydro-1-benzothiepin-4-carboxylate (11.4 g) obtained in Reference Example 8. To the solution is added sodium borohydride (2.1 g) in limited amounts taking 6 hours with stirring. Excess sodium borohydride is decomposed with dilute hydrochloric acid, followed by extraction with methylene chloride. The organic layer is washed with a small volume of saturated aqueous saline, dried, and concentrated under reduced pressure. The residue is dissolved in methanol (50 ml), to the solution is added a 7.5 N aqueous solution of sodium hydroxide (10 ml), and the mixture is stirred at room temperature for 1.5 hour. To the reaction mixture is added water. The mixture is acidified (pH 3) with dilute hydrochloric acid, followed by extraction with methylene chloride. The organic layer is concentrated under reduced pressure, and the concentrate is dissolved in dioxane (35 ml). To the solution is added 10N hydrochloric acid (7 ml), and the mixture is stirred at 50° C. for 30 minutes. The reaction mixture is cooled and diluted with water. Then precipitating crude crystals are collected by filtration, washed with water and dried, followed by recrystallization from methylene chloride-ether to give 7,8-dimethoxy-2,3-dihydro-1-benzothiepin-4-carboxylic acid as colorless prisms (6.5 g),

reactant | methyl 7,8-dimethoxy-5-oxo-2,3,4,5-tetrahydro-1-benzothiepin-4-carboxylate | 11.4 g | COC=1C(=CC2=C(C(C(CCS2)C(=O)OC)=O)C1)OC | C14H16O5S
reactant | sodium borohydride | 2.1 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dimethoxy-2,3-dihydro-1-benzothiepin-4-carboxylic acid | 6.5 g | COC=1C(=CC2=C(C=C(CCS2)C(=O)O)C1)OC | C13H14O4S
